US04272412
To a mixture of commercial bleach (42.6 ml of a 5.25% solution of sodium hypochlorite), α-irone (6.24 g), and methylene chloride (200 ml) was added a solution of potassium phosphate (monobasic) (8.16 g) in water (40 ml) during a 30 minute period. The mixture was stirred for 1 hour at 25°. The methylene chloride solution was washed with sodium bicarbonate solution and evaporated to give 7.3 g of crude product. Purification by column chromatography gave 4.59 g of 4-(5-chloro-6-methylene-2,2,3-trimethylcyclohexyl)-3-buten-2-one. NMR (CDCl3) δ0.70-0.78 (2H, d, J=5 Hz, >CHCH3), 0.90, 0.93 and 0.99 (6H, 3s, >C(CH3)2), 0.9-1.3 (1H, m, >CHCH3), 1.5-2.1 (2H, m, --CH2 --), 2.25, 2.26 and 2.28 (3H, 3s, --COCH3), 2.67 and 2.83 (1H, 2s, >CH--CH=CH--), 4.6-4.9 (1H, m, >CHCl), 4.93 and 5.12 (2H, 2s, >C=CH2, 5.8-6.3 (1H, m, --CH=CH--CO--), 6.6-7.6 (1H, m, --CH=CHCO--). IR (film) ν max 2960, 1695, 1675, 1620, 1460, 1430 cm-1. MS m/e 207, 163.

reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | α-irone | 6.24 g | CC1CC=C(C(C1(C)C)/C=C/C(=O)C)C | C14H22O
reactant | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
reactant | potassium phosphate | 8.16 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | water | 40 ml | O | H2O
product | 4-(5-chloro-6-methylene-2,2,3-trimethylcyclohexyl)-3-buten-2-one | 4.59 g | ClC1CC(C(C(C1=C)C=CC(C)=O)(C)C)C | C14H21ClO
